US07691882B2
(4-Butoxymethyl-phenyl)-methanol
To a mixture of 4-butoxymethyl-benzylamine (250 mg, 1.3 mmol) described in Manufacturing Example 33-1-2, acetic acid (2 mL) and water (2 mL) was added sodium nitrite (1.1 g, 16 mmol) at 0° C., which was stirred for 40 minutes at room temperature. The reaction mixture was partitioned into ethyl acetate and water. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride, and the solvent was evaporated under a reduced pressure. Methanol (2 mL) and potassium carbonate (360 mg, 2.6 mmol) were added to the residue, and the reaction mixture was stirred for 1.5 hours at room temperature. The reaction mixture was concentrated under a reduced pressure. The residue was purified by neutral silica gel column chromatography (ethyl acetate:heptane=1:1) to obtain the title compound (200 mg, 78%).

reactant | 4-butoxymethyl-benzylamine | 1.3 mmol, 250 mg | C(CCC)OCC1=CC=C(CN)C=C1 | C12H19NO
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 16 mmol, 1.1 g | N(=O)[O-].[Na+]
reactant | potassium carbonate | 2.6 mmol, 360 mg | C([O-])([O-])=O.[K+].[K+]
solvent | Methanol | 2 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | (4-Butoxymethyl-phenyl)-methanol | 200 mg, 78% | C(CCC)OCC1=CC=C(C=C1)CO | C12H18O2
